US07812022B2
3-Fluoro-N-[3-(3-{2-[(3-fluorophenyl)amino]-4-pyrimidinyl}pyrazolo[1,5-a]pyridin-2-yl)phenyl]-2-methylbenzamide
In a manner analogous to Example 66, 4-[2-(3-aminophenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-(3-fluorophenyl)-2-pyrimidinamine and 3-fluoro-2-methylbenzoyl chloride are used to prepare the title compound. HRMS calcd for C31H22F2N6O: 532.1823, found: 533.1921 (M+H+).

reactant | 4-[2-(3-aminophenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-(3-fluorophenyl)-2-pyrimidinamine | NC=1C=C(C=CC1)C1=NN2C(C=CC=C2)=C1C1=NC(=NC=C1)NC1=CC(=CC=C1)F | C23H17FN6
reactant | 3-fluoro-2-methylbenzoyl chloride | FC=1C(=C(C(=O)Cl)C=CC1)C | C8H6ClFO
reactant | N-(3-{3-[2-(1,2,3,4-tetrahydro-7-isoquinolinylamino)-4-pyrimidinyl]-pyrazolo[1,5-a]pyridin-2-yl}phenyl)benzamide | C1NCCC2=CC=C(C=C12)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C=2C=C(C=CC2)NC(C2=CC=CC=C2)=O | C33H27N7O
product | 3-Fluoro-N-[3-(3-{2-[(3-fluorophenyl)amino]-4-pyrimidinyl}pyrazolo[1,5-a]pyridin-2-yl)phenyl]-2-methylbenzamide | FC=1C(=C(C(=O)NC2=CC(=CC=C2)C2=NN3C(C=CC=C3)=C2C2=NC(=NC=C2)NC2=CC(=CC=C2)F)C=CC1)C | C31H22F2N6O
